US07115611B2
[rac]-2-Methyl-2-(2-methyl-4-{1-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-butoxy}-phenoxy)-propionic acid
A] The title compound was prepared in analogy to example 34, via [rac]-2-methyl-2-(2-methyl-4-{1-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-butoxy}-phenoxy)-propionic acid ethyl ester, but using in step A] [rac]-3-(1-chloro-butyl)-2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine (example 21B]) instead of 3-chloromethyl-2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine, as colorless foam.

reactant | [rac]-2-methyl-2-(2-methyl-4-{1-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-butoxy}-phenoxy)-propionic acid ethyl ester | C(C)OC(C(C)(OC1=C(C=C(C=C1)OC(CCC)C=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)C)C)=O | C30H34F3NO4
reactant | [rac]-3-(1-chloro-butyl)-2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine | ClC(CCC)C=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C17H17ClF3N
reactant | 3-chloromethyl-2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine | ClCC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C14H11ClF3N
product | [rac]-2-Methyl-2-(2-methyl-4-{1-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-butoxy}-phenoxy)-propionic acid | CC(C(=O)O)(C)OC1=C(C=C(C=C1)OC(CCC)C=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)C | C28H30F3NO4
